US05082944
Fischer (Ber., Vol. 15, 62 (1882) described already in 1882 the sulfonation of pyridine with concentrated sulfuric acid at 300° to 350° C. and after a reaction time of 24 hours, pyridine-3-sulfonic acid could be isolated with a yield of 50%. Subsequent investigations had the goal to produce the acid under milder reaction conditions in a shorter reaction time with a higher yield.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | pyridine-3-sulfonic acid | yield of 50% | N1=CC(=CC=C1)S(=O)(=O)O | C5H5NO3S
